US06288120B1
Pyridine (12.0 mL, 150 mmol) was added to a solution of 2-methoxyphenethylamine (15.1 g, 100 mmol) in CH2Cl2 (100 mL). The reaction was cooled to 0° C. and methanesulfonyl chloride (12.6 g, 110 mmol) was added. The reaction was stirred at 0° C. for 0.5 h and at room temperature for 2 h. Water was added and the aqueous layer was extracted with CH2Cl2 (2×). The organic solution was washed water (1×) and brine (1×), dried over MgSO4, filtered and concentrated to afford N-[2-(2-methoxy-phenyl)-ethyl]-methanesulfonamide (18.5 g).

reactant | Pyridine | 150 mmol, 12.0 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-methoxyphenethylamine | 100 mmol, 15.1 g | COC1=C(CCN)C=CC=C1 | C9H13NO
reactant | methanesulfonyl chloride | 110 mmol, 12.6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(2-methoxy-phenyl)-ethyl]-methanesulfonamide | 18.5 g | COC1=C(C=CC=C1)CCNS(=O)(=O)C | C10H15NO3S
